US05821363
(4S,5R)-N-Boc-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid (4a,b) is prepared from the side chain salt as follows. The (4S,5R)-N-Boc-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid potassium salt (1.5 mM) is suspended in ethyl acetate, and the solution washed twice with 5% aqueous sodium bisulfate, once with brine, dried and evaporated. The carboxylic acid is treated with methylene chloride (2 mL), 4-dimethylaminopyridine (48 mg), a solution of the 7-TES-Δ12,13 -iso-baccatin III (3, 0.492 g, 0.702 mM) in toluene (5 mL) plus methylene chloride (8 mL), and 1,3-dicyclohexylcarbodiimide (0.316 g, 1.53 mM). The solution is stirred under an inert atmosphere 2.5 h. The reaction is diluted with ethyl acetate and washed with aqueous sodium bisulfate and aqueous bicarbonate plus brine. The layers are filtered and separated, and the organic layer dried and evaporated. The product is purified by silica gel chromatography in acetone-hexane mixtures. 7-TES-Δ12,13 -iso-baccatin III-13-(4S,5R)-N-Boc-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid ester (5a,b) is obtained.

reactant | (4S,5R)-N-Boc-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid potassium salt | 1.5 mM | [K+].C(=O)(OC(C)(C)C)N1C(O[C@H]([C@@H]1C1=CC=CC=C1)C(=O)[O-])C1=C(C=C(C=C1)OC)OC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4S,5R)-N-Boc-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid | C(=O)(OC(C)(C)C)N1C(O[C@H]([C@@H]1C1=CC=CC=C1)C(=O)O)C1=C(C=C(C=C1)OC)OC | C23H27NO7
